US07368462B1
Preparation of 4′-trifluoromethyl-biphenyl-4-carboxylic acid (6-dimethylamino-methyl-naphthalen-1-ylmethyl)-methyl-amide HCl (10):
A solution of (6-dimethylamino-methyl-naphthalen-1-ylmethyl)-methyl-amine, 9, (14.25 g, 62.50 mmol), and 4′-trifluoromethyl-biphenyl-4-carbonyl chloride (17.81 g, 62.50 mmol) in CH2Cl2 (500 mL) is stirred at room temperature for 1 hr. The white solid which forms is collected by filtration and rinsed twice with CH2Cl2 (100 mL) to afford 22.0 g (69% yield) of the desired product as a white solid. 1H NMR (300 MHz, CD3OD): δ 8.37 (d, J=8.4 Hz, 1H), 8.15-7.56 (m, 13H), 5.31 (s, 2H), 5.31 and 5.14 (2×s, 2H, two rotamers), 3.17 and 2.93 (2×s, 9H, two rotamers). 13C NMR (75 MHz, CDCl3): δ 172.0, 165.5, 143.9, 141.4, 135.8, 134.1, 132.4, 132.1, 130.0, 129.0, 128.7, 127.7, 127.6, 127.4, 126.7, 126.6, 125.2, 123.9, 117.1, 61.1, 53.3, 42.1, 36.6. 19F NMR (282 MHz, CD3OD): δ 99.1. Mass Spec.: Calcd.: 477.5106; found HRMS: 477.5113; Formula: C29H27F3N2O+H, found LRMS: 477.27 (M+1).

reactant | (6-dimethylamino-methyl-naphthalen-1-ylmethyl)-methyl-amine | CN(C=1C=C2C=CC=C(C2=CC1)C(C)NC)C | C15H20N2
reactant | 4′-trifluoromethyl-biphenyl-4-carbonyl chloride | 62.50 mmol, 17.81 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl)(F)F | C14H8ClF3O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 4′-trifluoromethyl-biphenyl-4-carboxylic acid (6-dimethylamino-methyl-naphthalen-1-ylmethyl)-methyl-amide HCl | 22.0 g, 69% yield | Cl.CN(C=1C=C2C=CC=C(C2=CC1)C(C)N(C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)C | InChI=1S/C29H27F3N2O.ClH/c1-19(26-7-5-6-23-18-25(33(2)3)16-17-27(23)26)34(4)28(35)22-10-8-20(9-11-22)21-12-14-24(15-13-21)29(30,31)32;/h5-19H,1-4H3;1H
